US05663440
In a 1-liter three-necked flask equipped with a stirring device, a thermometer and a nitrogen substituting device, 32.6 g of 1,2-bis(4-(4-nitrobenzoyl)phenyl)ethane and 200 milliliters of dichloromethane were introduced. 42.0 g of trifluoromethane sulfonic acid was added dropwise for 15 minutes. Subsequently, a solution of 40.7 g of triethylsilane in 50 milliliters of dichloromethane was added dropwise for 1 hour. After the end of the dropwise addition, stirring was carried out for 18 hours with warming to room temperature. After the end of the reaction was confirmed by a liquid chromatography, the reaction solution was neutralized with an aqueous solution of sodium carbonate and washed with water. After removing dichloromethane by a rotary evaporator, 27.6 g of 1,2-bis(4-(4-nitrobenzyl)phenyl)ethane was obtained as crystals by recrystallizing from a toluene solvent.

reactant | 1,2-bis(4-(4-nitrobenzoyl)phenyl)ethane | 32.6 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)CCC2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C28H20N2O6
reactant | trifluoromethane sulfonic acid | 42.0 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | triethylsilane | 40.7 g | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50 milliliters | ClCCl | CH2Cl2
solvent | dichloromethane | 200 milliliters | ClCCl | CH2Cl2
product | 1,2-bis(4-(4-nitrobenzyl)phenyl)ethane | 27.6 g | [N+](=O)([O-])C1=CC=C(CC2=CC=C(C=C2)CCC2=CC=C(C=C2)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C28H24N2O4
